US04362876
Preparation of 3-Cyano-2,4-dihydroxy-6-nitroquinoline
A 13.16 g portion of the methyl 2-(2'-amino-5'-nitrobenzoyl)cyanoacetate, produced as described in Example 4 (molecular weight 263) was cyclized by refluxing for 8 hours with 2.81 g sodium methoxide (molecular weight 54) in 60 ml pyridine. After cyclization the pyridine was distilled and the batch was worked up as described above in Example 3. That part of the reaction product which was water insoluble before the acidification was not the desired quinoline derivative and was discarded. The precipitate which formed after acidification of the clear yellowish-brown mother liquor to pH 2.5 was found by infrared spectroscopy and nuclear magnetic resonance to be the crude desired product (melting point 281°-282° C.). The yield was 7.5 g, 64.9 percent of theory based on starting methyl ester of 2-(2'-amino-5'-nitrobenzoyl) cyanoacetate.

reactant | methyl 2-(2'-amino-5'-nitrobenzoyl)cyanoacetate | NC1=C(C(=O)C(C(=O)OC)C#N)C=C(C=C1)[N+](=O)[O-] | C11H9N3O5
reactant | sodium methoxide | 2.81 g | C[O-].[Na+]
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | 3-Cyano-2,4-dihydroxy-6-nitroquinoline | C(#N)C=1C(=NC2=CC=C(C=C2C1O)[N+](=O)[O-])O | C10H5N3O4
